US05137904
3-phenyl-5-[(2 -propenylthio)methyl]-2-thioxo-4-imidazolidinone
When 5 g of S-allylcysteine (0.031 mole), 1.24 g of sodium hydroxide (0.31 mole) and 4.19 g of phenylisothiocyanate (0.031 mole) were reacted according to the procedure for the preparation of the compound of Example 2, 8.59 g of crude product was obtained which did not require purification by chromatography. Crystallization of the crude product from isopropyl alcohol gave pure title compound: RF on silica gel=0.44 [ethyl acetate-hexane (2:3)].

reactant | S-allylcysteine | 0.031 mole, 5 g | C(C=C)SC[C@H](N)C(=O)O | C6H11NO2S
reactant | sodium hydroxide | 0.31 mole, 1.24 g | [OH-].[Na+]
reactant | phenylisothiocyanate | 0.031 mole, 4.19 g | C1(=CC=CC=C1)N=C=S | C7H5NS
product | 3-phenyl-5-[(2 -propenylthio)methyl]-2-thioxo-4-imidazolidinone | C1(=CC=CC=C1)N1C(NC(C1=O)CSCC=C)=S | C13H14N2OS2
